US06861441B1
Ethyl 1,4-diethoxy-2,3-naphthalenedicarboxylate (32 g, 89 mmol) was added to a solution of sodium hydroxide (20 g) in ethanol (200 ml) and water (40 ml) and stirred for 1.5 h at 60° C. The reaction was cooled and the thick white suspension was filtered. The solid was dissolved in a mixture of ethyl acetate (200 ml) and water (800 ml). The layers were separated and the aqueous was acidified with hydrochloric acid (2M, 120 ml). The aqueous was extracted with ethyl acetate (2×) and the combined organics were dried (MgSO4). Evaporation of the solvent under vacuum gave 1,4-diethoxy-2,3-naphthalenedicarboxylic acid as a white solid (25 g, 92%).

reactant | Ethyl 1,4-diethoxy-2,3-naphthalenedicarboxylate | 89 mmol, 32 g | C(C)OC1=C(C(=C(C2=CC=CC=C12)OCC)C(=O)[O-])C(=O)OCC
reactant | sodium hydroxide | 20 g | [OH-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | 40 ml | O | H2O
product | 1,4-diethoxy-2,3-naphthalenedicarboxylic acid | 25 g, 92% | C(C)OC1=C(C(=C(C2=CC=CC=C12)OCC)C(=O)O)C(=O)O | C16H16O6
